** sch_path: /foss/designs/layout/capfb_m8.sch
.subckt capfb_m8 VSS VDD3V3 clk in out
*.PININFO VSS:B VDD3V3:B clk:I in:B out:B
x4 VDD3V3 VSS in net1 clk clkb switch
x19 VDD3V3 VSS clk clkb inverter
C3 out net1 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=8
.ends

* expanding   symbol:  /foss/designs/core_pga/switch/switch.sym # of pins=6
** sym_path: /foss/designs/core_pga/switch/switch.sym
** sch_path: /foss/designs/core_pga/switch/switch.sch
.subckt switch VDD3V3 VSS in out clk clkb
*.PININFO VSS:B VDD3V3:B clk:I clkb:I in:B out:B
M5 in clkb out VDD3V3 pfet_03v3 L=0.36u W=4.5u nf=1
M7 out clk in VSS nfet_03v3 L=0.36u W=1.3u nf=1
M1 VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=0.36u W=4.5u nf=1 m=2
M2 VSS VSS VSS VSS nfet_03v3 L=0.36u W=1.3u nf=1 m=2
.ends


* expanding   symbol:  /foss/designs/core_pga/inverter/inverter.sym # of pins=4
** sym_path: /foss/designs/core_pga/inverter/inverter.sym
** sch_path: /foss/designs/core_pga/inverter/inverter.sch
.subckt inverter VDD3V3 VSS in out
*.PININFO VSS:B VDD3V3:B in:B out:B
M1 out in VDD3V3 VDD3V3 pfet_03v3 L=0.36u W=6u nf=1 m=2
M2 out in VSS VSS nfet_03v3 L=0.36u W=3u nf=1 m=2
M3 VSS VSS VSS VSS nfet_03v3 L=0.36u W=3u nf=1 m=2
M4 VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=0.36u W=6u nf=1 m=2
.ends

