* Extracted by KLayout with GF180MCU LVS runset on : 24/08/2026 03:30

.SUBCKT capfb_m16 out clk in VDD3V3 VSS
M$1 \$15 clk VDD3V3 VDD3V3 pfet_03v3 L=0.36U W=12U AS=5.28P AD=5.28P PS=19.76U
+ PD=19.76U
M$3 \$15 clk VSS VSS nfet_03v3 L=0.36U W=6U AS=2.64P AD=2.64P PS=10.76U
+ PD=10.76U
C$5 out \$4 3.872e-12 cap_mim_2f0fF A=1936P P=704U
M$13 VSS VSS VSS VSS nfet_03v3 L=0.36U W=8.6U AS=4.988P AD=4.988P PS=21.84U
+ PD=21.84U
M$14 \$4 clk in VSS nfet_03v3 L=0.36U W=1.3U AS=0.78P AD=0.78P PS=3.8U PD=3.8U
M$16 VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=0.36U W=21U AS=12.18P AD=12.18P
+ PS=46.64U PD=46.64U
M$17 \$4 \$15 in VDD3V3 pfet_03v3 L=0.36U W=4.5U AS=2.7P AD=2.7P PS=10.2U
+ PD=10.2U
.ENDS capfb_m16
